US07812160B2
A solution of methyl [4,6-dichloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (2.00 g, 5.62 mmol) in anhydrous THF (50 mL) was treated with Pd/C (10% Pd, 0.200 g) and the resulting black suspension was stirred under an atmosphere of hydrogen at room temperature. After 16 hours, the reaction mixture was filtered over Celite and the residue rinsed with copious amounts of MeOH. The filtrate was concentrated in vacuo to give the crude product as a dark yellow oil which was chromatographed (silica gel, 40% EtOAc in n-hexane) to give methyl [2-(4-aminobenzyl)-4,6-dichloropyrimidin-5-yl]acetate (1.32 g, 72% yield) as a white powder.

reactant | methyl [4,6-dichloro-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 5.62 mmol, 2.00 g | ClC1=NC(=NC(=C1CC(=O)OC)Cl)CC1=CC=C(C=C1)[N+](=O)[O-] | C14H11Cl2N3O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.200 g | [Pd] | Pd
product | methyl [2-(4-aminobenzyl)-4,6-dichloropyrimidin-5-yl]acetate | 1.32 g, 72% yield | NC1=CC=C(CC2=NC(=C(C(=N2)Cl)CC(=O)OC)Cl)C=C1 | C14H13Cl2N3O2
